US06858613B2
To a hot (65° C.) solution of TFA (44 mL, 510 mmol) and phosphorus oxychloride (39.0 g, 140 mmol) is added drop-wise a solution of ethyl 3-ethoxy-O-ethyl-N-(1H-pyrrol-2-ylmethylene)serinate (Dekhane, M; Potier, P; Dodd, R. H. Tetrahedron, 49, 1993, 8139-46.) (9.6 g, 28.0 mmol) in anhydrous 1,2-dichloroethane (200 mL). The black mixture is allowed to stir at 65° C. for 18 h at which point it is cooled to rt and neutralized with sat. NaHCO3 and solid NaHCO3 to pH ˜9. The phases are separated and the basic phase extracted with EtOAc (4×100 mL). The organic phases are combined, washed with brine, dried over Na2SO4, filtered, and concentrated to give a black oil that is purified with silica gel chromatography (35% EtOAc/heptanes to 50% over several liters) to give a light brown solid for ethyl pyrrolo[1,2-a]pyrazine-3-carboxylate. Yield 24%. HRMS (FAB) calcd for C10H10N2O2+H 191.0820, found 191.0823.

reactant | TFA | 510 mmol, 44 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | phosphorus oxychloride | 140 mmol, 39.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl 3-ethoxy-O-ethyl-N-(1H-pyrrol-2-ylmethylene)serinate | 28.0 mmol, 9.6 g | C(C)OC([C@H](N=CC=1NC=CC1)C(=O)OCC)OCC | C14H22N2O4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 200 mL | ClCCCl | C2H4Cl2
product | ethyl pyrrolo[1,2-a]pyrazine-3-carboxylate | Yield 24% | C=1C=2N(C=C(N1)C(=O)OCC)C=CC2 | C10H10N2O2
